US05290963
Synthesis of bis(4-diphenylaminophenylmethyl)diethylsilane (Example Compound (17))
0.6 g (24.9 mmol) of metallic magnesium was placed in a 200-ml four-necked flask equipped with a mechanical stirrer, a condenser, a nitrogen-inlet tube and a dropping funnel, and the inside atmosphere was replaced with nitrogen. 100 ml of diethyl ether was added and stirring was initiated. To this solution, 20 ml of a diethyl ether solution of 3.7 g (20 mmol) of bis(chloromethyl)diethylsilane was gradually added dropwise. When about 5 ml was added, mild reflux began. Under reflux conditions, the remainder of the diethyl ether solution was added. After completion of the addition, reflux was continued for 1 more hour. The Grignard solution thus obtained was cooled to room temperature, and then 6 mg of NiCl2 (dppe) was added at room temperature. Further 20 ml of a diethyl ether solution of 13.0 g (40 mmol) of 4-bromotriphenylamine was gradually added dropwise under ice cooling. After completion of the addition, the reaction mixture was stirred under reflux conditions for 8 hours. Then, the mixture was cooled on ice water bath, and 50 ml of water was added for hydrolysis. The ether layer was extracted and washed with a saturated aqueous solution of sodium hydrogen carbonate and then with two portions of water, followed by drying with anhydrous sodium sulfate. After drying, the diethyl ether was distilled off to yield a white solid, which was then recrystallized with n-hexane/toluene (3/1) to yield 19.7 g of the desired product (yield 78%).

reactant | magnesium | 24.9 mmol, 0.6 g | [Mg] | Mg
reactant | diethyl ether | 100 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 20 ml | C(C)OCC | C4H10O
reactant | bis(chloromethyl)diethylsilane | 20 mmol, 3.7 g | ClC[Si](CC)(CC)CCl | C6H14Cl2Si
reactant | diethyl ether | 20 ml | C(C)OCC | C4H10O
reactant | 4-bromotriphenylamine | 40 mmol, 13.0 g | C1=CC=C(C=C1)N(C2=CC=CC=C2)C3=CC=C(C=C3)Br | C18H14BrN
catalyst | NiCl2 | 6 mg | Cl[Ni]Cl
solvent | water | 50 ml | O | H2O
product | bis(4-diphenylaminophenylmethyl)diethylsilane | 19.7 g, yield 78% | C1(=CC=CC=C1)N(C1=CC=C(C=C1)C[Si](CC)(CC)CC1=CC=C(C=C1)N(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C42H42N2Si
